US06995144B2
After adding 5 ml of 4N hydrogen chloride/ethyl acetate to 154 mg of 1-(tert-butoxycarbonyl)-4-hydroxy-4-(2-methylphenoxymethyl)piperidine, the mixture was stirred for 3 hours at room temperature. The solvent was distilled off under reduced pressure to obtain 4-hydroxy-4-(2-methylphenoxymethyl)piperidine hydrochloride (123 mg, 100% yield). The title compound (28 mg, 46% yield) was then obtained in the same manner as Example 1 from 29 mg of 3-tert-butoxypyrazine-2-carboxaldehyde and 141 mg of the 4-hydroxy-4-(2-methylphenoxymethyl)piperidine hydrochloride.

reactant | hydrogen chloride ethyl acetate | 4N, 5 ml | Cl.C(C)(=O)OCC
reactant | 1-(tert-butoxycarbonyl)-4-hydroxy-4-(2-methylphenoxymethyl)piperidine | 154 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(COC1=C(C=CC=C1)C)O | C18H27NO4
product | 4-hydroxy-4-(2-methylphenoxymethyl)piperidine hydrochloride | 123 mg, 100% yield | Cl.OC1(CCNCC1)COC1=C(C=CC=C1)C | InChI=1S/C13H19NO2.ClH/c1-11-4-2-3-5-12(11)16-10-13(15)6-8-14-9-7-13;/h2-5,14-15H,6-10H2,1H3;1H
